US06589961B2
This compound is synthesized generally using the methods described in EP 38579. Specifically, 2 g of 2-amino-ethanol hydrochloride is added to 6.4 g of 1-nitro-9-phenoxyacridine dissolved in 20 g of freshly distilled phenol. The mixture is heated for 40 minutes at a temperature of 80° C. and then cooled, diluted with ether. It is then poured into a dry ether which was acidified with an ethereal solution of hydrogen chloride. The orange colored precipitate of 1-nitro-9-(2-hydroxyethylamino)-acridine hydrochloride, obtained in this way is filtered and crystallized from dry ethanol. The melting point of the compounds obtained was 170° C., with decomposition. Yield 91%. Elementary analysis for the formula: C15H14N3O3Cl: calculated: 56.47% C, 4.42% H, 13.17% N; determined: 56.44% C, 4.40% H, 13.03% N

reactant | 2-amino-ethanol hydrochloride | 2 g | Cl.NCCO
reactant | 1-nitro-9-phenoxyacridine | 6.4 g | [N+](=O)([O-])C1=CC=CC2=NC3=CC=CC=C3C(=C12)OC1=CC=CC=C1 | C19H12N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | ether | CCOCC | C4H10O
product | 1-nitro-9-(2-hydroxyethylamino)-acridine hydrochloride | Yield 91% | Cl.[N+](=O)([O-])C1=CC=CC2=NC3=CC=CC=C3C(=C12)NCCO | InChI=1S/C15H13N3O3.ClH/c19-9-8-16-15-10-4-1-2-5-11(10)17-12-6-3-7-13(14(12)15)18(20)21;/h1-7,19H,8-9H2,(H,16,17);1H
